US04327102
2-Methyl-6-((phenylsulphinyl)methyl)pyridine
A solution of 2-methyl-6-((phenylthio)methyl)pyridine is reacted with m-chloroperoxybenzoic acid according to the method of Example 1B to give the title compound.

reactant | 2-methyl-6-((phenylthio)methyl)pyridine | CC1=NC(=CC=C1)CSC1=CC=CC=C1 | C13H13NS
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
product | 2-Methyl-6-((phenylsulphinyl)methyl)pyridine | CC1=NC(=CC=C1)CS(=O)C1=CC=CC=C1 | C13H13NOS
